US06916921B2
1.7 g potassium cyanide were added to a solution of 4.7 g (20S)-4,4,20-trimethyl-21-tosyloxy-pregna-8,14-dien-3β-ol in 90 ml DMSO at room temperature. The mixture was stirred for 2 h at 90° C., poured into water, extracted with ethyl acetate and washed with water. The organic layer was dried over sodium sulfate, filtered and concentrated under reduced pressure to give 2.8 g (20S)-3β-hydroxy-4,4,20-trimethyl-pregna-8,14-dien-21-carbonitril as a white solid which was used without further purification.

reactant | potassium cyanide | 1.7 g | [C-]#N.[K+]
reactant | (20S)-4,4,20-trimethyl-21-tosyloxy-pregna-8,14-dien-3β-ol | 4.7 g | CC1(C2CCC=3C4=CC[C@H]([C@@H](COS(=O)(=O)C5=CC=C(C)C=C5)C)[C@]4(CCC3[C@]2(CC[C@@H]1O)C)C)C | C31H44O4S
reactant | water | O | H2O
solvent | DMSO | 90 ml | CS(=O)C | C2H6OS
product | (20S)-3β-hydroxy-4,4,20-trimethyl-pregna-8,14-dien-21-carbonitril | 2.8 g | O[C@@H]1C(C2CCC=3C4=CC[C@H]([C@H](CC#N)C)[C@]4(CCC3[C@]2(CC1)C)C)(C)C | C25H37NO
